US07528163B2
1-{1-[2-(2-Isopropylpyrrolidin-1-yl)-2-oxoethyl]-6-methoxy-1H-indazol-3-yl}-2,2-dimethylpropan-1-one
To a solution of 29.0 mg [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid 1 mL DMF was added 23.0 mg HOBt, 22.5 mg 2-isopropylpyrroline hydrochloride, 38.3 mg EDC, and 64.6 mg DIEA in that order. The mixture was stirred heated at 45° C. for two hours and purified by RP-HPLC using 60-100% MeCN gradient. The pure product fractions were pooled and lyophilized to give the title compound. LC-MS: 4.05 min. (m/Z=386.4, 408.3).

reactant | [3-(2,2-dimethylpropanoyl)-6-methoxy-1H-indazol-1-yl]acetic acid | 1 mL, 29.0 mg | CC(C(=O)C1=NN(C2=CC(=CC=C12)OC)CC(=O)O)(C)C | C15H18N2O4
reactant | HOBt | 23.0 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | 2-isopropylpyrroline hydrochloride | 22.5 mg | Cl.C(C)(C)C=1NCCC1
reactant | DIEA | 64.6 mg | CCN(C(C)C)C(C)C | C8H19N
solvent | EDC | 38.3 mg
product | 1-{1-[2-(2-Isopropylpyrrolidin-1-yl)-2-oxoethyl]-6-methoxy-1H-indazol-3-yl}-2,2-dimethylpropan-1-one | C(C)(C)C1N(CCC1)C(CN1N=C(C2=CC=C(C=C12)OC)C(C(C)(C)C)=O)=O | C22H31N3O3
